US07846964B2
At −78° C. buthyllithium (3.98 mL, 6.37 mmol, 1.6 M solution in hexanes) is added to a solution of 4-(4-bromo-benzyl)-2,2-dimethyl-[1,3]dioxolane (1.57 g, 5.79 mmol) in THF (50 mL). The reaction mixture is stirred at −78° C. for 2 h before DMF is slowly added (2.12 g, 28.95 mmol). Stirring is continued for 30 min at −78° C., then at rt for 1 h. The mixture is diluted with diethyl ether (200 mL) and washed with sat. aq. NaHCO3 and water. The organic layer is dried over MgSO4 and evaporated to leave 4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-benzaldehyde (1.29 g) as a pale brownish oil; LC-MS: tR=0.87 min; 1H NMR (CDCl3): δ 9.98 (s, 1H), 7.84-7.79 (m, 2H), 7.47-7.37 (m, 2H), 4.35 (p, J=6.4 Hz, 1H), 4.02 (dd, J=5.9, 8.2 Hz, 1H), 3.65 (dd, J=7.0, 8.2 Hz, 1H), 3.04 (dd, J=7.0, 14.1 Hz, 1H), 2.90 (dd, J=5.9, 13.5 Hz, 1H9, 1.44 8s, 3H), 1.36 (s, 3H).

reactant | 4-(4-bromo-benzyl)-2,2-dimethyl-[1,3]dioxolane | 5.79 mmol, 1.57 g | BrC1=CC=C(CC2OC(OC2)(C)C)C=C1 | C12H15BrO2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-benzaldehyde | 1.29 g | CC1(OCC(O1)CC1=CC=C(C=O)C=C1)C | C13H16O3
